US08912196B2
Thionyl chloride (6 ml) is added to a solution of Dibenzofuran-4-ylmethanol (0.9 g). The solution is refluxed for 1 hour. Excess of reagent is evaporated to yield 4-(chloromethyl)Dibenzofuran (0.97 g).

reactant | Thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Dibenzofuran-4-ylmethanol | 0.9 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)CO | C13H10O2
product | 4-(chloromethyl)Dibenzofuran | 0.97 g | ClCC1=CC=CC2=C1OC1=C2C=CC=C1 | C13H9ClO
